US09428498B2
Ethyl 2-[(cyclopropylmethyl)amino]pyrimidine-5-carboxylate
Ethyl 2-chloropyrimidine-5-carboxylate (500 mg, 2.68 mmol), cyclopropylmethylamine (0.28 mL, 3.22 mmol) and DIPEA (0.58 mL, 3.35 mmol) were dissolved in DMF (4 mL) and the reaction mixture was heated using a microwave reactor at 100° C. for 20 min. The reaction mixture was concentrated in vacuo and the residue was partitioned between DCM (50 mL) and sat aq NaHCO3 (40 mL). The organic fraction was dried (MgSO4) and concentrated in vacuo to give the title compound (566 mg, 95.5%) as a yellow solid. LCMS (ES+): 222.1 [MH]+. HPLC: Rt 5.79 min, 92.9% purity.

reactant | Ethyl 2-chloropyrimidine-5-carboxylate | 2.68 mmol, 500 mg | ClC1=NC=C(C=N1)C(=O)OCC | C7H7ClN2O2
reactant | cyclopropylmethylamine | 3.22 mmol, 0.28 mL | C1(CC1)CN | C4H9N
reactant | DIPEA | 3.35 mmol, 0.58 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-[(cyclopropylmethyl)amino]pyrimidine-5-carboxylate | 566 mg, 95.5% | C1(CC1)CNC1=NC=C(C=N1)C(=O)OCC | C11H15N3O2
